US04556711
5-[4-(3-(2-Acetamidoethyl)ureido)phenyl]-2(1H)-pyrazinone
In a manner similar to Example 13b, 5-[4-(isocyanato)phenyl]-2(1H)-pyrazinone is reacted with 2-acetamidoethylamine (1 g) in dimethylformamide (5 ml) for 17 hours at room temperature to form the title compound, m.p. 238°-44° C.; δ(DMSO-d6) 1.80 (s, 3H, COCH3), 7.94, 8.08 (2s, 2H, pyrazinone H's).

reactant | 5-[4-(isocyanato)phenyl]-2(1H)-pyrazinone | N(=C=O)C1=CC=C(C=C1)C=1N=CC(NC1)=O | C11H7N3O2
reactant | 2-acetamidoethylamine | 1 g | C(C)(=O)NCCN | C4H10N2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-[4-(3-(2-Acetamidoethyl)ureido)phenyl]-2(1H)-pyrazinone | C(C)(=O)NCCNC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C15H17N5O3
